data/pmechdb/original/mc_train_fold0/raw/train.txt
COC1=CC(=CC=C1)CO[P:10](C2=CC=CC=C2)(C3=CC=CC=C3)(C4=CC=CC=C4)[Br:11].C1CC(=O)NC1=O>>COC1=CC(=CC=C1)CO[P+:10](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4.[Br-:11].C1CC(=O)NC1=O 10,11=11
[H:20][CH:21]1[CH:22]=[C:23]([C:24](=[O+:25]1)CC(=O)OC)C(=O)OC.[OH2:10].C1=CC=[NH+]C=C1.[Cl-]>>[H:20][OH2+:10].COC(=O)C[C:24]1=[C:23]([CH:22]=[CH:21][O:25]1)C(=O)OC.C1=CC=[NH+]C=C1.[Cl-] 10=20;24,25=25;20,21=21,22;22,23=23,24
CCOC(=O)[CH:10]=[C:11](COC)[NH2:12].C1=CC(=O)[CH:20]=[CH:21][C:22]1=[O:23].CCOC(=O)C.CC(=O)O>>CCOC(=O)[CH:10]([CH:20]1[CH:21]=[C:22](C=CC1=O)[O-:23])[C:11](=[NH2+:12])COC.CCOC(=O)C.CC(=O)O 10,11=10,20;12=11;22,23=23;20,21=21,22
CS(=O)(=O)C1=CC=C(C=C1)C2=C[N:21]=[C:20](C=N2)[N+]#N.[OH2:10].[O-]S(=O)(=O)[O-].[Na+]>>CS(=O)(=O)C1=CC=C(C=C1)C2=C[N-:21][C:20](C=N2)([N+]#N)[OH2+:10].[O-]S(=O)(=O)[O-].[Na+] 10=20;20,21=21
C[C+:20](C)COC[C:10]#[C:11]C[Si](C)(C)C>>C[C:20]1(COC[C:10]1=[C+:11]C[Si](C)(C)C)C 10,11=10,20
[H:20][CH:21]1CCCC([C:22]1=[N+:23]2CCCC2)C.C1CC[NH:10]C1>>[H:20][NH+:10]1CCCC1.CC1CCC[CH:21]=[C:22]1[N:23]2CCCC2 10=20;22,23=23;20,21=21,22
C1C[CH:10]=[C:11]([CH:20](C1)[Cl:21])[O-].[OH2+][Na].[OH2+][K]>>C1C[CH:10]2[CH:20](C1)[C+:11]2[O-].[Cl-:21].[OH2+][Na].[OH2+][K] 10,11=10,20;20,21=21
CC1(OC(C(O1)C(C(OC(=O)C(F)(F)F)SC)OCC2=CC=CC=C2)C([CH:20]([O:21]C(=O)C(F)(F)F)[S:10]C)OCC3=CC=CC=C3)C.C(=O)(C(F)(F)F)O.O>>CC1(OC(C(O1)C(C(OC(=O)C(F)(F)F)SC)OCC2=CC=CC=C2)C([CH:20]=[S+:10]C)OCC3=CC=CC=C3)C.C(=O)(C(F)(F)F)[O-:21].C(=O)(C(F)(F)F)O.O 10=20;20,21=21
CC1=CC=C(C=C1)C2CC3(C(CCC3=O)C4C2=C5CCC(=[O+][C:20](C)([O-:10])[Br:21])C=C5CC4)C>>CC1=CC=C(C=C1)C2CC3(C(CCC3=O)C4C2=C5CCC(=[O+][C:20](=[O:10])C)C=C5CC4)C.[Br-:21] 10=20;20,21=21
CC[C:20](=[O:21])OC1=CC=CC=C1.[OH-:10]>>CC[C:20]([OH:10])([O-:21])OC1=CC=CC=C1 10=20;20,21=21
CCCCCCCCC=CCCCCCCCC(=O)OCC(C[OH+:21][C:20](C)(C)[OH:10])O.C1CCOC1.C(=O)(C(F)(F)F)[O-].O>>CCCCCCCCC=CCCCCCCCC(=O)OCC(C[OH:21])O.C[C:20](=[OH+:10])C.C1CCOC1.C(=O)(C(F)(F)F)[O-].O 10=20;20,21=21
[H:20][C:21]1(CCCC[CH:22]1[Br:23])Br.[OH-:10]>>[H:20][OH:10].C1CC[C:21](=[CH:22]C1)Br.[Br-:23] 10=20;22,23=23;20,21=21,22
[H:20][CH:21]1C(=O)OC(O[C:22]1=[O:23])(C)C.CN(C)C1=CC=[N:10]C=C1.CCCCCCCCC(=O)[N+]1=CC=C(C=C1)N(C)C.[Cl-]>>[H:20][N+:10]1=CC=C(C=C1)N(C)C.CC1(O[C:22](=[CH:21]C(=O)O1)[O-:23])C.CCCCCCCCC(=O)[N+]1=CC=C(C=C1)N(C)C.[Cl-] 10=20;22,23=23;20,21=21,22
C[CH:10]=[C:11](C)[O-:12].C1[CH2:20][O:21]1>>C[CH:10]([CH2:20]C[O-:21])[C:11](=[O:12])C 10,11=10,20;20,21=21;12=11
CC1=CC=C(C=C1)S(=O)(=O)[O:21][CH:20]2C3CC(C2[CH:11]=[CH:10]3)CC(C)C>>CC1=CC=C(C=C1)S(=O)(=O)[O-:21].CC(C)CC1CC2[CH:10]3[CH:20]2C1[CH+:11]3 10,11=10,20;20,21=21
CCO[C:20](=[O:21])C.[OH-:10]>>CCO[C:20](C)([OH:10])[O-:21] 10=20;20,21=21
[BH3-:10][PH3+:11]>>[BH3:10].[PH3:11] 10,11=11
CC1=CC=C(C=C1)[S:20](=O)(=[O:21])Cl.CC(=N[OH:10])C1=CN=CC=C1.C1=CC=NC=C1>>CC1=CC=C(C=C1)[S:20](=O)([O-:21])([OH+:10]N=C(C)C2=CN=CC=C2)Cl.C1=CC=NC=C1 10=20;20,21=21
CO[P:20](=O)(CC[O-:10])OC>>CO[P-:20]1(=O)(CC[O:10]1)OC 10=20,
CC[OH:10].CNC(=NC)O[S+:20](C)C>>CC[OH+:10][S:20](C)(C)OC(=NC)NC 10=20,
[H:20][C:21]1(C2=C(C=CC=C2)C3=C1C=CC=C3)COC(=O)NCC(=O)NC4=CC=C(C=C4I)Cl.C1CC[NH:10]CC1>>[H:20][NH+:10]1CCCCC1.C1=CC2=C(C=C1)C3=C([C-:21]2COC(=O)NCC(=O)NC4=CC=C(C=C4I)Cl)C=CC=C3 10=20;20,21=21
C=C(CC[CH:20]=[O:21])[O-:10].O>>C=C1CC[CH:20]([O:10]1)[O-:21].O 10=20;20,21=21
C[Si](C)(C)[CH2:10][Na:11].[CH2:20]=[O:21]>>C[Si](C)(C)[CH2:10][CH2:20][O-:21].[Na+:11] 10,11=10,20;20,21=21
COC(=O)CC(=C(C([CH2:20][Cl:21])O)C(=O)OC)[O-:10].C1=CC=[NH+]C=C1.O>>COC(=O)CC1=C(C([CH2:20][O:10]1)O)C(=O)OC.[Cl-:21].C1=CC=[NH+]C=C1.O 10=20;20,21=21
[H:20][C:21]1(C=CC=C[C+:22]1CC=C)C(C)CC2=CC=CC=C2.[F-:10]>>[H:20][F:10].CC(CC1=CC=CC=C1)[C:21]2=[C:22](C=CC=C2)CC=C 10=20;20,21=21,22
[H:20][O:21]C(C1=CC=C(C=C1)F)(C2=[N+](C(=C(S2)CCO)C)CC)C(C3=CC=CC=C3)[C:10](=[C:11](C(C)C)[O-:12])C(=O)OC.CCO.C(CO)[NH+](CCO)CCO.[Br-]>>[H:20][C:10](C(C1=CC=CC=C1)C(C2=CC=C(C=C2)F)(C3=[N+](C(=C(S3)CCO)C)CC)[O-:21])([C:11](=[O:12])C(C)C)C(=O)OC.CCO.C(CO)[NH+](CCO)CCO.[Br-] 10,11=10,20;20,21=21;12=11
CC(C)(CO)C[OH:10].COC1=C(C=C(C=C1)[CH:20]=[OH+:21])Br.CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=NC=C1>>CC(C)(CO)C[OH+:10][CH:20](C1=CC(=C(C=C1)OC)Br)[OH:21].CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=NC=C1 10=20;20,21=21
CCCCCC1CC(C[CH:20](C1OC(=[O:10])C)[O:21]S(=O)(=O)C2=CC=C(C=C2)C)C>>CCCCCC1CC(C[CH:20]2C1OC(=[O+:10]2)C)C.CC1=CC=C(C=C1)S(=O)(=O)[O-:21] 10=20;20,21=21
CC[NH2:10].C[CH:20]=[N+:21](C)C>>CC[NH2+:10][CH:20](C)[N:21](C)C 10=20;20,21=21
C[CH:10]=[C:11](CCC1(C(=O)CCC[C:20]1=[O:21])C)[NH:12]C(CC2=CC=CC=C2)C(=O)O.CC1(C2CCC1(C(=O)C2)CS(=O)(=O)[O-])C.C1=CC=C(C=C1)CC(C(=O)O)[NH3+].O>>C[CH:10]1[C:11](=[NH+:12]C(CC2=CC=CC=C2)C(=O)O)CCC3([C:20]1(CCCC3=O)[O-:21])C.CC1(C2CCC1(C(=O)C2)CS(=O)(=O)[O-])C.C1=CC=C(C=C1)CC(C(=O)O)[NH3+].O 10,11=10,20;20,21=21;12=11
[H:20][O:21]C(=O)C.C1CC(CCC1OCC2=CC=CC=C2)(O)[O:10]CCO.C1CCOC1.O>>[H:20][O+:10](CCO)C1(CCC(CC1)OCC2=CC=CC=C2)O.CC(=O)[O-:21].C1CCOC1.O 10=20;20,21=21
